US04231964
39.2 g of 2-nitro-4-acetamino-phenol are dissolved in a mixture of 200 ml of dimethylsulfoxide and 400 ml of acetone and, after adding 23.8 g of 1,4-dibromobutane, 13.8 g of potassium carbonate and 0.1 g of potassium iodide, the solution is boiled under reflux cooling for 10 hours, whilst stirring, and the reaction mixture is discharged onto 5 times the volume of water. The resulting yellow precipitate is filtered off, washed first with 1% strength sodium hydroxide solution and then with water and dried in vacuo at about 60° C. A small amount of 4-(2'-nitro-4'-acetamino-phenoxy)-1-bromobutane, formed by condensation on one side, is removed by boiling up with ethyl acetate. A yellow crystalline powder remains which consists of 1,4-bis-(2-nitro-4-acetamino-phenoxy)-butane and melts at 224°-226° C., with partial decomposition. In order to split off the acetyl groups, 10 g of the resulting diacetyl compound are suspended in 200 ml of ethanol and the suspension is boiled under reflux for 5 hours, whilst passing a stream of hydrogen chloride through. The resulting white suspension is poured onto 2,000 ml of water, the mixture is heated to the boil, a slight residue is filtered off and the filtrate is rendered alkaline with sodium hydroxide solution, whilst still hot. The orange-colored precipitate is filtered off and dried in vacuo at about 70° C. An orange-colored powder is obtained which melts at 192°-194° C., with partial decomposition. Analytically pure 1,4-bis-(2-nitro-4-amino-phenoxy)-butane is obtained in the form of a yellow-red crystalline powder on dissolving and reprecipitating from dimethylformamide/methanol. It melts at 194°-196° C., with partial decomposition.

reactant | 2-nitro-4-acetamino-phenol | 39.2 g | [N+](=O)([O-])C1=C(C=CC(=C1)NC(=O)C)O | C8H8N2O4
reactant | 1,4-dibromobutane | 23.8 g | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-(2'-nitro-4'-acetamino-phenoxy)-1-bromobutane | [N+](=O)([O-])C1=C(OCCCCBr)C=CC(=C1)NC(=O)C | C12H15BrN2O4
